US05681826
α-Glycosyltrehalose as a substrate was prepared in accordance with the method in Experiment 4: To a 20% aqueous solution of a reducing partial starch hydrolysate selected from maltotriose, maltotetraose, maltopentaose, maltohexaose and maltoheptaose was added 2 units/g substrate, d.s.b., of a purified non-reducing saccharide-forming enzyme obtained by the method in Experiment 15, subjected to an enzymatic reaction at 40° C. and pH 7.0 for 48 hours. The reaction mixture was heated to inactivate the remaining enzyme, filtered, decolored, desalted and concentrated into a high saccharide content solution which was then column chromatographed by using "XT-1016 in Na+ -form, an ion-exchanger commercialized by Tokyo Organic Chemical Industries, Ltd., Tokyo, Japan. In the column chromatography, the ion-exchanger was packed in 3-jacketed stainless steel columns, having an inner diameter of 2.0 cm and a length of one m each, which were then cascaded in series, heated to give the inner column temperature of 55° C., applied with 5 v/v % of the concentrated saccharide solution to the resin while keeping at 55° C., and fed with 55° C. hot water at SV 0.13 to obtain high-purity non-reducing saccharides having a trehalose structure as an end unit and a glucose polymerization degree of 3 or more. Among the resultant high-purity preparations, the purities of the preparations of glucosyltrehalose, maltotriosyl-trehalose, maltotriosyltrehalose, maltotetraosyltrehalose and maltopentaosyltrehalose were respectively 97.6%, 98.6%, 99.6%, 98.3% and 98.1%, d.s.b.

reactant | maltotriose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@H](O[C@@H]([C@@H]([C@H]2O)O)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O)CO)CO)O)O)O)O | C18H32O16
reactant | maltotetraose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@H](O[C@@H]([C@@H]([C@H]2O)O)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O)CO)CO)CO)O)O)O)O | C24H42O21
reactant | maltopentaose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@H](O[C@@H]([C@@H]([C@H]2O)O)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O)CO)CO)CO)CO)O)O)O)O | C30H52O26
reactant | maltohexaose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@H](O[C@@H]([C@@H]([C@H]2O)O)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](OC([C@@H]([C@H]6O)O)O)CO)CO)CO)CO)CO)O)O)O)O | C36H62O31
reactant | maltoheptaose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@H](O[C@@H]([C@@H]([C@H]2O)O)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](OC([C@@H]([C@H]7O)O)O)CO)CO)CO)CO)CO)CO)O)O)O)O | C42H72O36
solvent | water | O | H2O
product | trehalose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O)O)O)O)O | C12H22O11
